US08431695B2
Preparation of 2-{3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl}-N,N-dimethylacetamide
To a stirred solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (50 mg, 0.10 mmol), K2CO3 (28 mg, 0.21 mmol), and potassium iodide (19 mg, 0.11 mmol) in DMF (1 mL), 2-chloro-N,N-dimethylacetamide (14 mg, 0.11 mmol) was added at rt. The reaction was heated to 65° C. and allowed to stir for 2 hours. The mixture was allowed to cool and partitioned between ethyl acetate (50 mL) and saturated aqueous K2CO3 solution (30 mL). The layers were separated and the organic phase was washed, dried (Na2SO4), and concentrated to dryness. The residue was purified by preparative HPLC using a gradient elution from 10% to 70% acetonitrile to obtain 5 mg (9%) of the desired product. 1H-NMR (DMSO-d6) 8.53 (s, 1H), 7.90 (s, 1H), 7.78 (d, 1H), 7.57 (s, 1H), 7.36 to 7.30 (m, 5H), 7.12 (dd, 1H), 6.71 (s, 1H), 5.64 (s, 2H), 5.09 (dd, 1H), 3.76 (dd, 1H), 3.36-3.27 (m, 1H), 3.11 (d, 2H), 2.99-2.93 (m, 4H), 2.78-2.63 (m, 6H), 2.48-2.36 (m, 1H), 2.24-2.21 (m, 3H), 1.80 (t, 1H); LC-MS [M+H]+=566, RT=2.07 min.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.10 mmol, 50 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN1C(CO2)CNCC1 | C27H28N8O
reactant | K2CO3 | 0.21 mmol, 28 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 0.11 mmol, 19 mg | [I-].[K+]
reactant | 2-chloro-N,N-dimethylacetamide | 0.11 mmol, 14 mg | ClCC(=O)N(C)C | C4H8ClNO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-{3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl}-N,N-dimethylacetamide | 5 mg, 9% | NC1=NC=NN2C1=C(C=C2C2CN1C(CO2)CN(CC1)CC(=O)N(C)C)C=1C=CC2=CN(N=C2C1)CC1=CC=CC=C1 | C31H35N9O2
